US06569885B1
Preparation of 1-(3-Methoxyphenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
Similar to Example 1, equimolar amounts of 3-methoxyphenylhydrazine hydrochloride and 2-acetyl-3-oxo-butyric acid ethyl ester were combined in a Solution of 50% pyridine in ethanol. The resulting solid was determined to be the named product by 1H-NMR (CDCl3, ppm): 1.38 t (3H); 2.50 s (3H); 2.52 s (3H); 3.84 s (3H); 4.32 q (2H); 6.96 m (3H); 7.3 st (1H).

reactant | 3-methoxyphenylhydrazine hydrochloride | Cl.COC=1C=C(C=CC1)NN
reactant | 2-acetyl-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)C(C)=O)=O | C8H12O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Methoxyphenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)OC)C | C15H18N2O3
